US07517873B2
A mixture of 0.15 g (0.0006 mole) of (R)-9-chloro-6-methyl-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one (VII-102) and 0.11 g (0.00066 mole) of 4-amino-3-methoxy-benzoic acid (Aldrich) in 15 mL of ethanol-water-hydrochloric acid (20:80:1) was heated by microwave at 160 degrees for 40 minutes, and then concentrated under reduced pressure. The residue was lyophilized to give crude 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-benzoic acid (I-102a) as a light yellow solid which was used without further purification in subsequent steps.

reactant | (R)-9-chloro-6-methyl-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one | 0.0006 mole, 0.15 g | ClC=1N=CC2=C(N3CCC[C@@H]3CC(N2C)=O)N1 | C11H13ClN4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.00066 mole, 0.11 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
solvent | ethanol water hydrochloric acid | 15 mL | C(C)O.O.Cl
product | 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-benzoic acid | COC=1C=C(C(=O)O)C=CC1NC=1N=CC2=C(N3CCC[C@@H]3CC(N2C)=O)N1 | C19H21N5O4
